US04956363
4 g (0.05 mole) of acetyl chloride are added dropwise into a solution of 11.2 g (0.05 mole) of 2-amino-4-morpholino-6-propyl-1,3,5-triazine in 100 ml of anhydrous pyridine at room temperature. The mixture is stirred for 6 hours and then allowed to stand for 48 hours. The pyridine hydrochloride is filtered off and the filtrate is evaporated under reduced pressure. The residue obtained is taken up once in toluene, and the mixture is evaporated again. The residue is then taken up in dichloromethane and the solution is washed with water and dried over sodium sulfate. The residue obtained after evaporation of the solvent is purified by chromatography over silica (eluent: 90:10 v/v) dichloromethane-ethanol) and the product is finally recrystallized from ethyl acetate. 5.75 g of N-(4-morpholino-6-propyl-1,3,5-triazin-2-yl)-acetamide are obtained. Yield: 43.4%. M.P.: 141°-142° C. (Compound 21a). Hydrochloride: M.P.: 145°-146° C. (isopropyl alcohol-ether). (Compound 21b).

reactant | acetyl chloride | 0.05 mole, 4 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-amino-4-morpholino-6-propyl-1,3,5-triazine | 0.05 mole, 11.2 g | NC1=NC(=NC(=N1)N1CCOCC1)CCC | C10H17N5O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-morpholino-6-propyl-1,3,5-triazin-2-yl)-acetamide | 5.75 g, Yield: 43.4% | O1CCN(CC1)C1=NC(=NC(=N1)CCC)NC(C)=O | C12H19N5O2
